US06503949B1
A mixture of 5-nitro-2-trifluoromethoxybenzoic acid (6.43 g, 25.6 mmol) and 128 mg of 10% Pd/C in 10 mL of absolute ethanol was stirred in a hydrogen atmosphere overnight at room temperature. The catalyst was filtered off and the filtrate was evaporated to dryness. The re-residue was triturated with diethyl ether and the crystals were filtered off and dried to afford 1.644 g (29%) of 5-amino-2-trifluoromethoxybenzoic acid.

reactant | 5-nitro-2-trifluoromethoxybenzoic acid | 25.6 mmol, 6.43 g | [N+](=O)([O-])C=1C=CC(=C(C(=O)O)C1)OC(F)(F)F | C8H4F3NO5
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 10 mL | C(C)O | C2H6O
catalyst | Pd/C | 128 mg | [Pd] | Pd
product | 5-amino-2-trifluoromethoxybenzoic acid | 1.644 g, 29% | NC=1C=CC(=C(C(=O)O)C1)OC(F)(F)F | C8H6F3NO3
